US04567175
2 g of (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one and 1.13 g of 2-(N-methyl-N-n-propylamino)ethyl chloride hydrochloride are treated in the same manner as described in Example 5. The product is converted to its hydrobromide and recrystallized from a mixture of ethanol and ether. 2.1 g of (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-methyl-N-n-propylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrobromide are thereby obtained as colorless prisms.

reactant | (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 2 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(NC([C@@H]1O)=O)C=CC(=C2)Cl | C16H14ClNO3S
reactant | 2-(N-methyl-N-n-propylamino)ethyl chloride hydrochloride | 1.13 g | Cl.CN(CCC)CCCl
reactant | hydrobromide | Br | BrH
product | (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-methyl-N-n-propylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrobromide | 2.1 g | Br.COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(CCC)C)C=CC(=C2)Cl | InChI=1S/C22H27ClN2O3S.BrH/c1-4-11-24(2)12-13-25-18-10-7-16(23)14-19(18)29-21(20(26)22(25)27)15-5-8-17(28-3)9-6-15;/h5-10,14,20-21,26H,4,11-13H2,1-3H3;1H/t20-,21+;/m1./s1
